US03987160
Benzoyl chloride (28 ml.) was added dropwise, under anhydrous conditions, to an ice-cooled, stirred suspension of 5-amino-4-carbamoyl-1H-1,2,3-triazole (15.24 g.) in anhydrous pyridine (240 ml.), and the reaction mixture was then stirred at room temperature for 40 hours. The mixture was poured into cold water (1,200 ml.), and the solid filtered off and washed well with water. The crude solid was heated in a large volume of boiling ethanol, and the insoluble material filtered off while still hot, to give 5-benzamido-4-carbamoyl-1H-1,2,3-triazole (20.4 g.), m.p. 301° C. (with decomposition).

reactant | Benzoyl chloride | 28 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 5-amino-4-carbamoyl-1H-1,2,3-triazole | 15.24 g | NC1=C(N=NN1)C(N)=O | C3H5N5O
reactant | water | 1,200 ml | O | H2O
solvent | pyridine | 240 ml | N1=CC=CC=C1 | C5H5N
product | 5-benzamido-4-carbamoyl-1H-1,2,3-triazole | 20.4 g | C(C1=CC=CC=C1)(=O)NC1=C(N=NN1)C(N)=O | C10H9N5O2
